US07763629B2
N,N,3-trimethyl-4-nitrobenzamide (0.6 g, 2.88 mmol) in methanol was hydrogenated using the H-cube apparatus (1.2 mL/min, RT, atmospheric pressure). After 45 minutes the reaction was complete. Removal of the solvent in vacuo gave 4-amino-N,N,3-trimethylbenzamide as a colourless solid (quantitative); MS (ES+) 179.

reactant | N,N,3-trimethyl-4-nitrobenzamide | 2.88 mmol, 0.6 g | CN(C(C1=CC(=C(C=C1)[N+](=O)[O-])C)=O)C | C10H12N2O3
solvent | methanol | CO | CH4O
product | 4-amino-N,N,3-trimethylbenzamide | NC1=C(C=C(C(=O)N(C)C)C=C1)C | C10H14N2O
